US05798390
In a 2 neck round bottom flask, equipped with a magnetic stir bar and reflux condenser, was placed N,N-dimethyl-1-naphthylamine (4.35 g, 25.4 mmol, and BrCN (2.99 g, 28.2 mmol) in a single portion. This suspension was placed in an oil bath (preheated, 90° C.) and allowed to stir and reflux under N2 for 21 hours. During this time a gas was given off, detected by bubbler placed over the reflux condenser. The reaction was followed by TLC, using methylene chloride as the solvent and viewed under UV. After the 21 hours, the mixture was cooled, 100 ml of ether was added and the insoluble quaternary salt (669 mg) was filtered off. The ether filtrate was extracted with an aqueous 5M HCl solution (4×, 30 ml) and washed with water (5×, 20 ml). The ether was dried over anhydrous granular K2CO3, filtered, then concentrated to dryness, then distilled by bulb to bulb distillation at reduced pressure to afford the yellow oil of the N-methyl-N-(1-naphthyl)cyanamide (2.22 g, 48%. b.p. 180° C./1.5 mm Hg (Cressman, Homer, W. J., Org. Synth. collective vol.3, 608), 170°-171° C./1 mm Hg).

reactant | N,N-dimethyl-1-naphthylamine | CN(C)C1=CC=CC2=CC=CC=C12 | C12H13N
reactant | BrCN | 28.2 mmol, 2.99 g | BrC#N | CBrN
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-methyl-N-(1-naphthyl)cyanamide | 2.22 g, 48% | CN(C#N)C1=CC=CC2=CC=CC=C12 | C12H10N2
